US07547691B2
(C). Preparation of 4-(3-amino-propyl)-piperazine-1-carboxylic acid tert-butyl ester
Triphenylphosphine (2.78 g, 10.6 mmol) is added to a stirred solution of 4-(3-azido-propyl)-piperazine-1-carboxylic acid tert-butyl ester (2.05 g, 7.61 mmol) in a solution of THF (10 mL)/acetonitrile (30 mL)/water (4 mL). The resultant mixture is stirred for 16 hours. After concentration and subsequent chromatography on silica gel, eluting with 2 M NH3/CH3OH in dichloromethane 0-20%, the title compound is obtained as a clear oil (1.76 g, 95% yield).

reactant | Triphenylphosphine | 10.6 mmol, 2.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(3-azido-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 7.61 mmol, 2.05 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN=[N+]=[N-] | C12H23N5O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 4 mL | O | H2O
product | 4-(3-amino-propyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
